US08309725B2
Preparation of 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-4-methyl-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]ethan-1-one
Formalin (37%, 223 mg, 2.7 mmol) was dissolved in 5 ml of MeOH and NaBH3CN (17.2 mg, 0.27 mmol) was added. The pH was adjusted to 5 with concentrated acetic acid. 2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (109 mg, 0.27 mmol), dissolved in MeOH (15 ml), was then added to the mixture and the mixture was stirred for 1.5 hours. After addition of saturated Na2CO3 solution (12 ml), the mixture was stirred at room temperature for 15 minutes. The precipitate formed was filtered off and MeOH was evaporated off from the filtrate under 100 mbar. The aqueous phase was extracted by shaking five times with CH2Cl2 and the combined organic phases were dried over Na2SO4 and evaporated in vacuo. The residue was purified by flash chromatography (Ø 2 cm, CH2Cl2/MeOH/NH3 9.5:0.5:0.05, l=16 cm, V=5 ml). A yellowish resin was isolated.

reactant | Formalin | 2.7 mmol, 223 mg | C=O | CH2O
reactant | NaBH3CN | 0.27 mmol, 17.2 mg | [BH3-]C#N.[Na+]
reactant | 2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.27 mmol, 109 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | Na2CO3 | 12 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | MeOH | 15 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-4-methyl-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]ethan-1-one | ClC=1C=C(C=CC1Cl)CC(=O)N1CCN(C2CCCC(C12)N1CCCC1)C | C21H29Cl2N3O
